US07238724B2
(1-hydroxymethyl-cyclopentyl)-carbamic acid benzyl ester
To a stirred solution of 1-amino-1-cyclopentanemethanol (1.15 g, 10 mmol ) and NaHCO3 (0.84 g, 10 mmol) in acetone (14 mL)/water (14 mL) at room temperature was added benzyl succinimidyl carbonate (2.5 g, 10 mmol). The reaction mixture was stirred at room temperature for 18 hours, concentrated under reduced pressure and purified by flash chromatography with 3% methanol:dichloromethane to provide the titled compound. MS (DCI) m/z 250 (M+H)+.

reactant | 1-amino-1-cyclopentanemethanol | 10 mmol, 1.15 g | NC1(CCCC1)CO | C6H13NO
reactant | NaHCO3 | 10 mmol, 0.84 g | C(=O)(O)[O-].[Na+]
reactant | water | 14 mL | O | H2O
reactant | benzyl succinimidyl carbonate | 10 mmol, 2.5 g | C(OCC1=CC=CC=C1)(ON1C(CCC1=O)=O)=O | C12H11NO5
solvent | acetone | 14 mL | CC(=O)C | C3H6O
product | (1-hydroxymethyl-cyclopentyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1(CCCC1)CO)=O | C14H19NO3
